US07320986B2
4′-Bromo-3-methoxy-biphenyl-4-ol
A mixture of 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (0.250 g, 1.00 mmol), 1,4-dibromo benzene (0.259 g, 1.10 mmol), Pd(PPh3)4 (0.0580 g, 5%), and CsF (0.456 g, 3.00 mmol) in DME/MeOH (25 mL, 1:1) was heated at 70° C. overnight. The reaction mixture was concentrated and the residue was extracted with CH2Cl2, washed with water, dried over MgSO4, filtered, concentrated, and purified by flash chromatography eluted with hexane/CH2Cl2 (1:9) to give 0.151 g (54%) of the desired product. MS (DCI/NH3) m/z: 279.9 (M+H)+; 1H NMR (300 MHz, CD3OD) δ 3.91 (s, 3H), 6.86 (d, J=8.14 Hz, 1H), 7.06 (m, 1H), 7.14 (d, J=2.03 Hz, 1H), 7.44-7.58 (m, 3H).

reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 1.00 mmol, 0.250 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
reactant | 1,4-dibromo benzene | 1.10 mmol, 0.259 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | CsF | 3.00 mmol, 0.456 g | [F-].[Cs+]
solvent | DME MeOH | 25 mL | COCCOC.CO
catalyst | Pd(PPh3)4 | 0.0580 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Bromo-3-methoxy-biphenyl-4-ol | 0.151 g, 54% | BrC1=CC=C(C=C1)C1=CC(=C(C=C1)O)OC | C13H11BrO2
